US08106043B2
4-(2-(1-Methylpyrrolidin-2-yl)ethyl)-7-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one:
A suspension of 7-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one (0.5 g, 2.575 mmol), 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride (0.94 g, 5.150 mmol), NaI (0.19 g, 1.287 mmol), and K2CO3 (2.13 g, 15.452 mmol) in dry DMF (10 mL) was stirred at room temperature overnight (18 hours). The reaction was diluted with water (150 mL), and the product was extracted into ethyl acetate (2×25 mL). The combined ethyl acetate layers were washed with brine (20 mL) and dried (Na2SO4). The solvent was evaporated, and the crude material was purified by column chromatography (3:97 (2M NH3 in MeOH):CH2Cl2) to obtain the title compound (0.525 g, 67%) as a yellow solid. 1H NMR (DMSO-d6) δ 1.47-1.65 (m, 4H), 1.79-2.13 (m, 4H), 2.18 (s, 3H), 2.89-2.95 (m, 1H), 3.98 (t, 2H, J=7.8 Hz), 4.79 (s, 2H), 7.40 (d, 1H, J=9.0 Hz), 7.80 (d, 1H, J=2.7 Hz), 7.98 (dd, 1H, J=2.4, 9.0 Hz); ESI-MS (m/z, %): 306 (MH+, 100).

reactant | 7-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | 2.575 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC2=C(OCC(N2)=O)C1 | C8H6N2O4
reactant | 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride | 5.150 mmol, 0.94 g | Cl.ClCCC1N(CCC1)C
reactant | NaI | 1.287 mmol, 0.19 g | [Na+].[I-]
reactant | K2CO3 | 15.452 mmol, 2.13 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | 4-(2-(1-Methylpyrrolidin-2-yl)ethyl)-7-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | 0.525 g, 67% | CN1C(CCC1)CCN1C2=C(OCC1=O)C=C(C=C2)[N+](=O)[O-] | C15H19N3O4
